US07812040B2
4-Methoxy-5-(pyrrolidin-1-ylmethyl)phenol.
5-Hydroxy-2-methoxybenzaldehyde (4.5 g, 0.03 mol) was added in portions for 30 min to a mixture of pyrrolidine (3.1 mL, 0.037 mol) and NaB(OAc)3H (7.8 g, 0.037 mol) in CH2Cl2 (50 mL) under vigorous stirring and cooling with an ice bath in an atmosphere of argon. The mixture was stirred for 12 h and cooled with an ice bath. Water (50 mL) and 5N NaHSO4 (to pH 1) were added. The organic layer was separated and discarded. The aqueous one was alkalized with saturated K2CO3 to pH 6 and extracted with chloroform (2×50 mL). The combined extracts were dried with Na2SO4, and evaporated to give the title compound (5.42 g, 89%) was obtained as brown crystals. LCMS-data: (M+H)+ 208.1 and 209.1 (calculated for C12H17NO2 207.3). 1H NMR data (DMSO-d6): 8.79 (br. s, 1H ArOH), 6.81 (d, 1H, J=8.1 Hz, Ar—H), 6.74 (d, 1H, J=4.9 Hz, Ar—H); 6.64 (dd, 1H, J1=1.9, J2=8.1, Ar—H), 3.73 (s, 2H, OCH3), 3.42 (s, 2H, ArCH2), 2.33-2.45 (m, 4H, pyrrolidine (CH2)2N), 1.59-1.73 (m, 4H, CH2CH2CH2CH2).

reactant | 5-Hydroxy-2-methoxybenzaldehyde | 0.03 mol, 4.5 g | OC=1C=CC(=C(C=O)C1)OC | C8H8O3
reactant | pyrrolidine | 0.037 mol, 3.1 mL | N1CCCC1 | C4H9N
reactant | NaB(OAc)3H | 0.037 mol, 7.8 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHSO4 | 5N, pH 1 | OS(=O)(=O)[O-].[Na+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 50 mL | O | H2O
product | 4-Methoxy-5-(pyrrolidin-1-ylmethyl)phenol | 5.42 g, 89% | COC1=CC=C(C=C1CN1CCCC1)O | C12H17NO2
